** sch_path: /foss/designs/engn1600-team1/CAD3/master_latch.sch
.subckt master_latch VDD VSS Q WEM WEMb D
*.PININFO D:I WEMb:I WEM:I VSS:B VDD:B Q:O
M3 net1 WEMb net2 VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M7 net1 D VDD VDD pfet_03v3 L=0.28u W=0.72u nf=1 m=1
M8 Q net2 VDD VDD pfet_03v3 L=0.28u W=2.88u nf=1 m=1
M9 net3 net2 VDD VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M10 VDD WEM net5 VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M12 net5 net3 net2 VDD pfet_03v3 L=0.28u W=0.36u nf=1 m=1
M19 net1 D VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M20 net1 WEM net2 VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M21 Q net2 VSS VSS nfet_03v3 L=0.28u W=1.44u nf=1 m=1
M22 net3 net2 VSS VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M23 net4 net3 net2 VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
M24 VSS WEMb net4 VSS nfet_03v3 L=0.28u W=0.36u nf=1 m=1
.ends
